US07790895B2
1-Phenyl-1,3-dihydro-furo[3,4-c]pyridin-3-ol (50 mg) was dissolved in ethanol (2 mL) and treated with sodium borohydride (13 mg). The reaction mixture was stirred for 1 hour and then diluted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield (3-hydroxymethyl-pyridin-4-yl)-phenyl-methanol as a colorless foam.

reactant | 1-Phenyl-1,3-dihydro-furo[3,4-c]pyridin-3-ol | 50 mg | C1(=CC=CC=C1)C1OC(C=2C=NC=CC21)O | C13H11NO2
reactant | sodium borohydride | 13 mg | [BH4-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-hydroxymethyl-pyridin-4-yl)-phenyl-methanol | OCC=1C=NC=CC1C(O)C1=CC=CC=C1 | C13H13NO2
